US04855291
Boron trifluoride etherate (5 ml) was added cautiously to a mixture of ethyl 7-chloro-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate (5 g) and a solution of methylamine in IMS (32%; 35 ml) and the mixture was boiled under reflux for 8 hours. The same quantities of boron trifluoride etherate and methylamine in IMS were added and the mixture was boiled under reflux for 24 hours. The same quantities of boron trifluoride etherate and methylamine in IMS were added and the mixture was boiled under reflux for 8 hours. The mixture was kept at ambient temperature for 16 hours and then filtered. The residue was washed with IMS, dried and recrystallised from aqueous IMS to give the novel compound 7-chloro-1,N-dimethyl-4-oxo-1,4-dihydroquinoline-3-carboxamide, m.p. 260°-263°.

reactant | Boron trifluoride etherate | 5 ml | B(F)(F)F.CCOCC
reactant | ethyl 7-chloro-1-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 5 g | ClC1=CC=C2C(C(=CN(C2=C1)C)C(=O)OCC)=O | C13H12ClNO3
reactant | methylamine | CN | CH5N
product | 7-chloro-1,N-dimethyl-4-oxo-1,4-dihydroquinoline-3-carboxamide | ClC1=CC=C2C(C(=CN(C2=C1)C)C(=O)NC)=O | C12H11ClN2O2
